US04748175
2-Methyl-4-[2-(4-morpholinyl)-ethyl]-amino-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one dihydrochloride
According to Example 20, a mixture containing 1 g of 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one, 1.01 g of triethylamine and 0.65 g of 2-(4-morpholinyl)-ethylamine is refluxed for 40 hours to give 0.46 g (25%) of the product, m.p.: 233°-237° C. (with decomposition).

reactant | 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 1 g | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
reactant | 2-(4-morpholinyl)-ethylamine | 0.65 g | N1(CCOCC1)CCN | C6H14N2O
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
product | 2-Methyl-4-[2-(4-morpholinyl)-ethyl]-amino-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one dihydrochloride | 0.46 g, 25% | Cl.Cl.CC=1N=C(C=2OC(C(NC2N1)=O)N)CCN1CCOCC1 | InChI=1S/C13H19N5O3.2ClH/c1-8-15-9(2-3-18-4-6-20-7-5-18)10-12(16-8)17-13(19)11(14)21-10;;/h11H,2-7,14H2,1H3,(H,15,16,17,19);2*1H
